US05977178
(2R)-2-(tert-Butoxycarbonylamino)-3-(thiophen-2-yl)propionic acid (5.00 g; 18.4 mmol) was dissolved in tetrahydrofuran (60 ml). Methyliodide (9.2 ml; 147 mmol) was added and the solution was cooled to 0° C. Sodiumhydride (60% in oil; 1.90 g; 55.3 mmol) was added in portions and the reaction mixture was stirred at room temperature for two days. Ethyl acetate (50 ml) and water (20 ml) were added dropwise. The solvent was removed in vacuo and the residue was dissolved in ether (30 ml) and water (30 ml). The phases were separated and the organic phase was washed with saturated aqueous sodium hydrogencarbonate (30mi). The aqueous phase were mixed. Citric acid (5% (aq)) was added to pH 3 and the aqueous phase was extracted with ethyl acetate (4×30 ml). The combined organic phases were washed with water (2×30 ml), aqueous sodium thiosulfate (5%; 30 ml), water (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The residue was dissolved in ether (10 ml) and dicyclohexylamine (8.5 ml) was added and the mixture was left in a refrigerator overnight. The precipitate was filtered and washed with ether (2×15 ml) and then redissolved in methylene chloride and washed with a mixture of water (15 ml) and sodium hydrogensulfate (15 ml; 10%(aq)). The aqueous phase was washed with methylene chloride (3×15 ml). The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo to give 5.10 g of (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(thiophen-2-yl) propionic acid.

reactant | (2R)-2-(tert-Butoxycarbonylamino)-3-(thiophen-2-yl)propionic acid | 18.4 mmol, 5.00 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | Methyliodide | 147 mmol, 9.2 ml | CI | CH3I
reactant | Sodiumhydride | 55.3 mmol, 1.90 g | [H-].[Na+]
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(thiophen-2-yl) propionic acid | 5.10 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC=1SC=CC1 | C13H19NO4S
